US08802690B2
To a solution of 5-bromo-2-methylpyridin-3-amine (10.7 g, 57.5 mmol) in dichloromethane (575 mL) was added acetic anhydride (12 mL, 126.5 mmol) at 0° C. followed by triethylamine (22 mL, 158 mmol). The mixture was allowed to warm to ambient temperature and stirred for 18 hours at which point a further equivalent of acetic anhydride (6 mL, 63 mmol) was added. The mixture was stirred at ambient temperature for a further 72 hours. The reaction mixture was quenched with a saturated aqueous solution of sodium bicarbonate (500 mL) and the organic phase washed with saturated aqueous sodium chloride (500 mL), dried over magnesium sulfate and concentrated in vacuo to give a brown solid. This solid was triturated with 30% ethyl acetate in hexanes to yield N-(5-bromo-2-methylpyridin-3-yl)acetamide as an off-white solid. (8.28 g, 36 mmol, 63%). 1HNMR (400 MHz, CD3OD): δ ppm 8.31 (s, 1H), 8.18 (s, 1H), 2.43 (s, 3H), 2.18 (s, 3H).

reactant | 5-bromo-2-methylpyridin-3-amine | 57.5 mmol, 10.7 g | BrC=1C=C(C(=NC1)C)N | C6H7BrN2
reactant | acetic anhydride | 126.5 mmol, 12 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 158 mmol, 22 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 63 mmol, 6 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 575 mL | ClCCl | CH2Cl2
product | N-(5-bromo-2-methylpyridin-3-yl)acetamide | BrC=1C=C(C(=NC1)C)NC(C)=O | C8H9BrN2O
